US05536698
Ethyl 5-(2-methoxyphenyl)-2-isoxazoline-3-carboxylate (Example 125, see Table 1)
4.2 g of 2,4-difluorostyrene and 4.55 g of ethyl 2-chloro-2-hydroximinoacetate are introduced into 350 ml of ether, and the mixture is cooled to 0° C. 3.03 g of triethylamine are added dropwise to this mixture at 0° C. The mixture is stirred for 3 hours at room temperature, 50 ml of water are then added, and the mixture is extracted using ether. After drying over MgSO4, the ether is distilled off, and the residue is purified over a silica column (eluent: n-heptane:ethyl acetate=8:2). This gave 6.68 g (86% of theory) of product of refractive index [n]D20 =1.5019.

reactant | 2,4-difluorostyrene | 4.2 g | FC1=C(C=C)C=CC(=C1)F | C8H6F2
reactant | ethyl 2-chloro-2-hydroximinoacetate | 4.55 g | ClC(C(=O)OCC)=NO | C4H6ClNO3
reactant | ether | 350 ml | CCOCC | C4H10O
reactant | triethylamine | 3.03 g | C(C)N(CC)CC | C6H15N
solvent | water | 50 ml | O | H2O
product | Ethyl 5-(2-methoxyphenyl)-2-isoxazoline-3-carboxylate | COC1=C(C=CC=C1)C1CC(=NO1)C(=O)OCC | C13H15NO4
